US06002008
4-(3-Azido-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Dissolved 643 mg (2.00 mmol) 4-(3-amino-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile in 25 ml 80% acetic acid in water. Chilled to 0° C. and added 152 mg (2.21 mmol) sodium nitrite in 2.2 ml water. After 10 minutes, added 144 mg (2.21 mmol) sodium azide in 2.2 ml water. At 1.5 hours stripped solvent and dissolved residue in hot ethyl acetate. Washed with saturated sodium bicarbonate, water and brine and dried with sodium sulfate. Stripped solvent and redissolved in 60% ethyl acetate/methylene chloride and filtered through a pad of silica gel. Stripped solvent and dried in vacuo, giving 526 mg of brown solid: mass spectrum (electrospray m/e): M+H=347.1.

reactant | 4-(3-amino-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 2.00 mmol, 643 mg | NC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C18H16N4O2
reactant | sodium nitrite | 2.21 mmol, 152 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 2.21 mmol, 144 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 2.2 ml | O | H2O
solvent | water | 2.2 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Azido-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 526 mg | N(=[N+]=[N-])C=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C18H14N6O2
